US06573273B1
Using the general method of Example 150, 1-(3-aminopropyl)-2-(3-phenoxypropyl)-1H-imidazo[4,5-c]quinolin-4-amine (2.0 g, 5.32 mmol) was reacted with 4-morpholinecarbonyl chloride (880 mg, 5.86 mmol) to provide 1.8 g of N-{3-[4-amino-2-(3-phenoxypropyl)-1H-imidazo[4,5-c]quinolin-1-yl]propyl}morpholine-4-carboxamide as a light yellow crystalline solid, m.p. 198.8-199.9° C. Analysis: Calculated for C27H32N6O3%C, 66.37; %H, 6.60; %N, 17.20; Found: %C, 66.31; %H, 6.70; %N, 17.40.

reactant | 1-(3-aminopropyl)-2-(3-phenoxypropyl)-1H-imidazo[4,5-c]quinolin-4-amine | 5.32 mmol, 2.0 g | NCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCOC2=CC=CC=C2 | C22H25N5O
reactant | 4-morpholinecarbonyl chloride | 5.86 mmol, 880 mg | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | N-{3-[4-amino-2-(3-phenoxypropyl)-1H-imidazo[4,5-c]quinolin-1-yl]propyl}morpholine-4-carboxamide | 1.8 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCNC(=O)N2CCOCC2)CCCOC2=CC=CC=C2 | C27H32N6O3
